US04670540
(1) Synthesis of Boc-PheArg(Tos)-OBzl
Boc-Phe-OH (4 g, 15 mmole), H-Arg-OBzl.TosOH (8.9 g, 15 mmole) and HOBt (2.1 g, 15.75 mmole) were dissolved in DMF (25 ml), and WSCI (12.9 ml, 15.75 mmole) was added dropwise thereto while cooling, and the thus-obtained mixture (pH=4) was stirred overnight. To the reaction solution, AcOEt (300 ml) was added thereto, and the solution was washed with 1N HCl, water and 5% NaHCO3 and water, in order, and dried with Na2SO4 . AcOEt was distilled off under reduced pressure, and the thus-obtained residue was treated with ethyl acetate, ether, and n-hexane to give an oily substance. The substance was obtained by decantation and treated with ethyl acetate and hexane to give precipitates of the object product (6.89 g, 60%).

reactant | Boc-Phe-OH | 15 mmole, 4 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | H-Arg-OBzl | N[C@@H](CCCNC(N)=N)C(=O)OCC1=CC=CC=C1 | C13H20N4O2
reactant | TosOH | 15 mmole, 8.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)O | C7H8O3S
reactant | HOBt | 15.75 mmole, 2.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | AcOEt | 300 ml | CCOC(=O)C | C4H8O2
product | Boc-PheArg(Tos)-OBzl | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C34H43N5O7S
